US07476759B2
1-Benzyl 4-tert-butyl 2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)succinate
Lithium bis(trimethylsilyl)amide (1.06 M in THF; 12.6 mL, 13.3 mmol) was added dropwise over 10 min to a stirred solution of benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)acetate (4.32 g, 12.1 mmol) in THF (40 mL) at −78° C. under nitrogen. On completion of addition stirring was continued at −78° C. for 30 min then t-butylbromoacteate (2.82 g, 2.14 mL, 14.5 mmol) was added dropwise over 5 min. The reaction was allowed to warm slowly to room temperature over 4 h then saturated ammonium chloride solution (40 mL) was added and the resulting suspension extracted with ethyl acetate (3×50 mL). The organic phases were combined, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on silica gel (5% diethyl ether: cyclohexane) to give the title compound as a colourless oil (5.35 g, 94%). LC/MS: 4.35 min; z/e 488, calcd (M+18) 488. 1H NMR (400 MHz: CDCl3): 7.10 (3H), 7.05 (2H), 6.95 (2H), 6.60 (2H), 4.95 (2H), 3.85 (1H), 2.90 (1H), 2.40 (1H) 1.20 (9H), 0.8 (9H), 0.05 (6H).

reactant | Lithium bis(trimethylsilyl)amide | 13.3 mmol, 1.06 M, 12.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl (4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)acetate | 12.1 mmol, 4.32 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C21H28O3Si
reactant | t-butylbromoacteate | 14.5 mmol, 2.14 mL, 2.82 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Benzyl 4-tert-butyl 2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)succinate | 5.35 g, 94% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C | C27H38O5Si
